US07208493B2
6-(Naphthalene-1-yl)-3H-quinazolin-4-one
To a solution of 6-bromo-3H-quinazolin-4-one (45.2 mg, 0.2 mmol) dissolved in 2 ml N,N-dimethylacetamide in a 20 ml vial, naphthalene-1-boronic acid (69.4 mg, 0.4 mmol) dissolved in 1 ml ethanol and potassium carbonate (30.5 mg, 0.22 mmol) dissolved in 1 ml water were added. Tripenylphosphine (5.27 mg, 0.02 mmol) and tris(dibenzylideneacetone)dipalladium (0) (3.6 mg, 4 umol) was added to the mixture which refluxed overnight. The crude product was poured into 50 ml saturated bicarbonate solution and methylene chloride was used to extract the product. Solvent in the organic phase was removed under vacuum. The resulted residue was purified by preparative HPLC. 32.9 mg product was obtained. Yield: 62%; 1H NMR (500 MHz, DMSO-d6): δ 7.52083–7.54615(m, 2H), 7.56877–7.58461(dd, J=6.88 Hz, 1H), 7.61224–7.64281(dd, J1=8.255 Hz, J2=8.285 Hz, 1H), 7.78775–7.804 (d, J=8.125 Hz, 1H), 7.82384–7.84054(d, J=8.35 Hz, 1H), 7.93472–7.95545(dd, J1=8.365 Hz, J2=2 Hz, 1H), 8.00847–8.02533(d, J=8.43 Hz, 1H), 8.03829–8.05347(d, J=7.59 Hz, 1H), 8.15915–8.16300(d, J=1.925 Hz, 1H), 8.19218 (s, 1H); ESI-MS: m/z 273 (M++1)

reactant | 6-bromo-3H-quinazolin-4-one | 0.2 mmol, 45.2 mg | BrC=1C=C2C(NC=NC2=CC1)=O | C8H5BrN2O
reactant | naphthalene-1-boronic acid | 0.4 mmol, 69.4 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | potassium carbonate | 0.22 mmol, 30.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Tripenylphosphine | 0.02 mmol, 5.27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bicarbonate | 50 ml | C([O-])(O)=O
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 4 umol, 3.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(Naphthalene-1-yl)-3H-quinazolin-4-one | 32.9 mg, Yield: 62% | C1(=CC=CC2=CC=CC=C12)C=1C=C2C(NC=NC2=CC1)=O | C18H12N2O
